US06063789
b) 7-Amino-5-phenyl-4,5-dihydrothieno[2.3-c]pyridine hydrochloride
Tetra-n-butylammonium fluoride (1.0M in THF, 1.12 ml), was added dropwise to a solution of 7-amino-5-phenyl-2-trimethylsilyl-4,5-dihydrothieno[2,3-c]pyridine hydrochloride (0.13 g, 0.37 mmol) in THF (2.5 ml) and the mixture stirred for 30 min., evaporated and the residue purified by flash chromatography on untreated neutral alumina, eluting with 4% methanol in dichloromethane, increasing the gradient by increments to 20% methanol in dichloromethane to afford a colourless glass. Recrystallisation from dichloromethane gave the title compound as white crystals (51 mg), m.p. 234-236° C.

reactant | Tetra-n-butylammonium fluoride | 1.0M, 1.12 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 7-amino-5-phenyl-2-trimethylsilyl-4,5-dihydrothieno[2,3-c]pyridine hydrochloride | 0.37 mmol, 0.13 g | Cl.NC1=NC(CC2=C1SC(=C2)[Si](C)(C)C)C2=CC=CC=C2
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
product | 7-Amino-5-phenyl-4,5-dihydrothieno[2.3-c]pyridine hydrochloride | 51 mg | Cl.NC1=NC(CC2=C1SC=C2)C2=CC=CC=C2 | InChI=1S/C13H12N2S.ClH/c14-13-12-10(6-7-16-12)8-11(15-13)9-4-2-1-3-5-9;/h1-7,11H,8H2,(H2,14,15);1H
